US04297516
5-Methylene-4-triethylsilyloxy-1-tri-n-butylstannyl-1-octene
A mixture of 20 g. of 5-methylene-4-triethylsilyloxy-1-octyne, 25.36 g. of tri-n-butylstannane and 0.1 g. of azobisisobutyrylnitrile is placed in an oil bath at 100° C. After 10 minutes an exotherm raises the temperature to 150° C. The mixture is then heated at 130°-140° C. for 1.5 hours. The excess tri-n-butylstannane is distilled off at 130° C. (1 mm.) and the residue is distilled in a Kugelrohr at 120°-140° C., 0.15-0.05 mm., giving the product as a colorless liquid.

reactant | 5-methylene-4-triethylsilyloxy-1-octyne | C=C(C(CC#C)O[Si](CC)(CC)CC)CCC | C15H28OSi
reactant | tri-n-butylstannane | C(CCC)[SnH](CCCC)CCCC
product | 5-Methylene-4-triethylsilyloxy-1-tri-n-butylstannyl-1-octene | C=C(C(CC=C[Sn](CCCC)(CCCC)CCCC)O[Si](CC)(CC)CC)CCC | InChI=1S/C15H29OSi.3C4H9.Sn/c1-7-12-14(6)15(13-8-2)16-17(9-3,10-4)11-5;3*1-3-4-2;/h2,8,15H,6-7,9-13H2,1,3-5H3;3*1,3-4H2,2H3;
